US06277790B1
2,4-Dimethylthiophen-3-yl-(n-propyl)amine
In an atmosphere of inert gas, 34.6 g (0.59 mol) of propylamine were admixed with 10.6 g (78 mmol) of anhydrous zinc chloride powder in the course of which the temperature of the mixture rose strongly. The solution was then admixed with 50 g (0.39 mol) of 2,4-dimethyl-3-hydroxythiophene, introduced into an autoclave and heated at 1700° C. under pressure (approximately 5 bar) for 16 hours. After cooling, the mixture was made alkaline using 50 ml of 33% strength aqueous sodium hydroxide solution and extracted twice with hexane, the combined organic phases were washed three times with water, dried over magnesium sulfate, filtered and concentrated under water pump vacuum, and the residue was distilled. Yield 31.2 g (47%), b.p. 88° C. (2 mbar). 1H NMR (270 MHz in CDCl3):δ=0.96 (t, 3H), 1.56 (sext., 2H), 2.12 (s, 3H), 2.31 (s, 3H), 2.96 (t, 2H), 3.18 (s, 1H), 6.61 (s, 1H).

reactant | propylamine | 0.59 mol, 34.6 g | C(CC)N | C3H9N
reactant | 2,4-dimethyl-3-hydroxythiophene | 0.39 mol, 50 g | CC=1SC=C(C1O)C | C6H8OS
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc chloride | 78 mmol, 10.6 g | [Cl-].[Zn+2].[Cl-]
product | 2,4-Dimethylthiophen-3-yl-(n-propyl)amine | CC=1SC=C(C1NCCC)C | C9H15NS
